US06831106B1
a) Ethyl 5′-hydroxy-2′-methylbiphenyl-4-carboxylate
In a manner similar to that of Example 11(d), by reaction of 3.7 g (18.8 mmol) of 4-methoxymethoxy-1-methylbenzene-2-boronic acid described in Example 16(c) with 4.7 g (17 mmol) of ethyl 4-iodobenzoate, 17 mL of 2.0M potassium carbonate solution and 1 g (0.8 mmol) of tetrakis(triphenylphosphine)palladium, followed by deprotection in ethanol, the desired product is obtained in the form of a colourless oil (m=3.07 g; Y=71%).

reactant | 4-methoxymethoxy-1-methylbenzene-2-boronic acid | 18.8 mmol, 3.7 g | COCOC1=CC(=C(C=C1)C)B(O)O | C9H13BO4
reactant | ethyl 4-iodobenzoate | 17 mmol, 4.7 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | potassium carbonate | 2.0M, 17 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.8 mmol, 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 5′-hydroxy-2′-methylbiphenyl-4-carboxylate | OC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)OCC)C | C16H16O3
